US08609150B2
(b-1) 6.8 ml (13.6 mmol) of isopropylmagnesium chloride (2M tetrahydrofuran solution) was cooled to 0° C., and a solution having 1.6 g (6.6 mmol) of 3-bromo-5-chloro-2-methoxy-4-methylpyridine dissolved in 5 ml of tetrahydrofuran was dropwise added, followed by stirring at the same temperature for 3 hours to prepare 5-chloro-2-methoxy-4-methyl-3-pyridylmagnesium chloride. The reaction solution was cooled to −78° C., and a solution having 1.2 g (13.3 mmol) of copper(I) cyanide and 1.15 g (27.1 mmol) of lithium chloride dissolved in 15 ml of tetrahydrofuran was dropwise added to prepare a 5-chloro-2-methoxy-4-methyl-3-pyridylcopper reagent. Separately, 3.2 g (14.3 mmol) of 2,3,4-trimethoxy-6-methylbenzoic acid prepared in Step (a) was subjected to reflux with heating in 7 ml of thionyl chloride for 3 hours, and the surplus thionyl chloride was distilled off under reduced pressure to prepare 2,3,4-trimethoxy-6-methylbenzoyl chloride, which was dissolved in 7 ml of tetrahydrofuran. The solution thus prepared was dropwise added at −78° C. to the above prepared pyridylcopper reagent, followed by stirring for 1 hour, and the temperature was increased to room temperature, followed by stirring further for 2 hours. Water and ammonia water were added to the reaction solution to terminate the reaction, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and subjected to filtration, and the solvent was distilled off under reduced pressure. The crude product was purified by silica gel column chromatography to obtain 2.6 g (yield: 57%) of 3-(2,3,4-trimethoxy-6-methylbenzoyl)-5-chloro-2-methoxy-4-methylpyridine (melting point 85 to 88° C.), and the compound was identified by 1HNMR. (b-2) The same reaction as in Step (b-1) was carried out that 11 ml (11.0 mmol) of an isopropylmagnesium chloride 1M tetrahydrofuran solution and 2.5 g (10.6 mmol) of 3-bromo-5-chloro-2-methoxy-4-methylpyridine were used, except that 1.25 g (1.1 mmol) of tetrakistriphenylphosphine palladium was used instead of the tetrahydrofuran solution of copper(I) cyanide and lithium chloride, and that 2,3,4-trimethoxy-6-methylbenzoyl chloride prepared from 2.4 g (10.6 mmol) of 2,3,4-trimethoxy-6-methylbenzoic acid and 5 ml of thionyl chloride was dropwise added at 0° C. over a period of 2 hours, followed by stirring at the same temperature for 15 hours to obtain 1.7 g (yield: 43%) of 3-(2,3,4-trimethoxy-6-methylbenzoyl)-5-chloro-2-methoxy-4-methylpyridine, and the compound was identified by 1HNMR. (b-3) The same operation as in Step (b-2) was carried out except that 22 ml (22.0 mmol) of an isopropylmagnesium chloride 0.5M tetrahydrofuran solution was used instead of the isopropylmagnesium chloride 1M tetrahydrofuran solution, and 1.14 g (11.5 mmol) of copper chloride was used instead of tetrakistriphenylphosphine palladium to obtain 1.7 g (yield: 43%) of 3-(2,3,4-trimethoxy-6-methylbenzoyl)-5-chloro-2-methoxy-4-methylpyridine, and the compound was identified by 1HNMR.

reactant | isopropylmagnesium chloride | 11.0 mmol, 1M, 11 ml | C(C)(C)[Mg]Cl
reactant | 3-bromo-5-chloro-2-methoxy-4-methylpyridine | 10.6 mmol, 2.5 g | BrC=1C(=NC=C(C1C)Cl)OC | C7H7BrClNO
reactant | copper(I) cyanide | [Cu]C#N
reactant | lithium chloride | [Cl-].[Li+]
reactant | 2,3,4-trimethoxy-6-methylbenzoyl chloride | COC1=C(C(=O)Cl)C(=CC(=C1OC)OC)C | C11H13ClO4
reactant | 2,3,4-trimethoxy-6-methylbenzoic acid | 10.6 mmol, 2.4 g | COC1=C(C(=O)O)C(=CC(=C1OC)OC)C | C11H14O5
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(2,3,4-trimethoxy-6-methylbenzoyl)-5-chloro-2-methoxy-4-methylpyridine | 1.7 g, yield: 43% | COC1=C(C(=O)C=2C(=NC=C(C2C)Cl)OC)C(=CC(=C1OC)OC)C | C18H20ClNO5
